US05610303
(3) N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzylpiperidin-4-yl)acetyl]aniline
50 ml of acetone, 1.14 g of potassium carbonate and 0.4 ml of benzyl bromide were added to 1.34 g of N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(piperidin-4-yl)acetyl]aniline, and the mixture was stirred at room temperature for 4 hours. After separating the solid by filtration and removing the solvent by distillation under reduced pressure, the obtained residue was applied to silica gel column chromatography to obtain 1.05 g of the title compound as yellowish white powder.

reactant | potassium carbonate | 1.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(piperidin-4-yl)acetyl]aniline | 1.34 g | N1=CN=C(C2=C1CCC2)NC2=CC=C(C=C2)C(CC2CCNCC2)=O | C20H24N4O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzylpiperidin-4-yl)acetyl]aniline | 1.05 g | N1=CN=C(C2=C1CCC2)NC2=CC=C(C=C2)C(CC2CCN(CC2)CC2=CC=CC=C2)=O | C27H30N4O
